US09290468B2
Methyl 4-azido-5-(benzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate can be hydrogenated in the presence of appropriate catalyst (such as Pd/C, Pt, Ni) in appropriate solvent. The reaction normally completes within several hours (1-12 h, prefer 3-10 h). Methyl 4-amino-5-(benzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate is obtained after conventional workup.

reactant | Methyl 4-azido-5-(benzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=CC=C1)NC1=C(C=CC=C1)F)F | C21H16F2N4O2S
catalyst | Pd/C | [Pd] | Pd
catalyst | Ni | [Ni] | Ni
product | Methyl 4-amino-5-(benzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=CC=C1)NC1=C(C=CC=C1)F)F | C21H18F2N2O2S
